US06683201B2
A solution of 40 mg (0.094 mmol) of N-[4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide in 3 ml MeOH/0.3 ml dioxane was treated with 0.094 ml 1N AcOH in MeOH followed by 4 mg Pd/C10%, type EION (under argon) and then hydrogenated (1 atm) for 3 h. The reaction mixture was filtered (Celite) and extracted with aqueous sat. NaHCO3/Et2O (3×). The organic phases were washed with aqueous 10% NaCl solution, dried (Na2SO4) and evaporated to yield 27 mg (66%) of N-[4-(5-Dimethylamino-pentyl)-phenyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide, MS: 429 (MH+).

reactant | N-[4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 0.094 mmol, 40 mg | CN(CCCC#CC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C21H23F3N2O2S
reactant | AcOH | 1N, 0.094 ml | CC(=O)O | C2H4O2
solvent | MeOH | 3 ml | CO | CH4O
catalyst | Pd | 4 mg | [Pd] | Pd
product | N-[4-(5-Dimethylamino-pentyl)-phenyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 27 mg, 66% | CN(CCCCCC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C21H27F3N2O2S
